US07521457B2
a) 2-amino-6-(1-aminomethyl-propoxy)-benzonitrile
2.01 g (22 mmol) 1-amino-2-butanol are dissolved in 6.5 ml 1,4-dioxane, combined with 880 mg (7.8 mmol) sodium hydride and stirred for 30 min at ambient temperature. 2 g (14.7 mmol) of 2-amino-6-fluorobenzonitrile are added to this reaction mixture and it is stirred for 24 h at 50° C. Then the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is silica gel and the eluant used is dichloromethane, to which 5% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution has been added.

reactant | 1-amino-2-butanol | 22 mmol, 2.01 g | NCC(CC)O | C4H11NO
reactant | sodium hydride | 7.8 mmol, 880 mg | [H-].[Na+]
reactant | 2-amino-6-fluorobenzonitrile | 14.7 mmol, 2 g | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
solvent | 1,4-dioxane | 6.5 ml | O1CCOCC1 | C4H8O2
product | 2-amino-6-(1-aminomethyl-propoxy)-benzonitrile | NC1=C(C#N)C(=CC=C1)OC(CC)CN | C11H15N3O
